US08686048B2
Intermediate 36: 2′-chloro-3,5-difluoro-5′-methoxybiphenyl-4-amine
The title compound (97 mg) was prepared from 4-bromo-2,6-difluoroaniline (100 mg, 0.48 mmol) and 2-chloro-5-methoxyphenylboronic acid (116 mg, 0.62 mmol) as a yellow solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.40 (d, J 9.6, 1H), 7.02 (d, J 7.7, 2H), 6.92 (s, 2H), 5.39 (s, 2H), 3.77 (s, 3H).

reactant | 4-bromo-2,6-difluoroaniline | 0.48 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 2-chloro-5-methoxyphenylboronic acid | 0.62 mmol, 116 mg | ClC1=C(C=C(C=C1)OC)B(O)O | C7H8BClO3
product | 2′-chloro-3,5-difluoro-5′-methoxybiphenyl-4-amine | 97 mg | ClC1=C(C=C(C=C1)OC)C1=CC(=C(C(=C1)F)N)F | C13H10ClF2NO
